US06797718B2
A solution of trifluoroacetic acid (188 mL, 2.44 mol) in dichloromethane (300 mL) was cooled to 0° C. A solution of tert-butyl 2-{2-[(8-ethyl-5,6-dimethyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)]ethoxy}ethylcarbamate (19.7 g, 48.8 mmol) in dichloromethane (300 mL) was then slowly added over a period of 30 minutes, and the reaction was stirred overnight. The volatiles were removed under reduced pressure, and the residual brown oil was stirred with 2-propanol (300 mL) to form a white salt, which was isolated by filtration and dried in a vacuum at 80° C. The salt was dissolved in water (200 mL), and solid sodium carbonate was added to adjust to pH 12. The solution was extracted with chloroform overnight with a continuous extractor. The extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 11.5 g of 2-[2-(8-ethyl-5,6-dimethyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)ethoxy]ethylamine as a white solid, m.p. 181-183° C.

reactant | trifluoroacetic acid | 2.44 mol, 188 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-{2-[(8-ethyl-5,6-dimethyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)]ethoxy}ethylcarbamate | 48.8 mmol, 19.7 g | C(C)C=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCOCCNC(OC(C)(C)C)=O | C19H29N7O3
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-[2-(8-ethyl-5,6-dimethyl-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridin-7-yl)ethoxy]ethylamine | 11.5 g | C(C)C=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCOCCN | C14H21N7O
